US09169259B2
A mixture of methyl 3-(8-bromoimidazo[1,2-b]pyridazin-6-yl)benzoate (250 mg, 0.75 mmol), 6-(3-aza-bicyclo[3.1.0]hexan-3-yl)pyridin-2-amine (198 mg, 1.13 mmol), Pd2(dba)3 (43 mg, 0.075 mmol), BINAP (187 mg, 0.3 mmol), Cs2CO3 (734 mg, 2.25 mmol) and dioxane (10 mL) was heated to 100° C. with stirring for 16 h under N2. The solvent was removed in vacuo and the resulting mixture was purified by chromatography (silica gel, 200-300 mesh, petroleum ether:ethyl acetate=3:1) to give crude product which was further purified by prep-HPLC (Gemini 5u C18 150×21.2 mm; inject volume: 3 mL/inj, flow rate: 20 mL/min; wavelength: 214 nm and 254 nm; gradient conditions: 30% acetonitrile/70% water (0.1% TFA, v/v) initially, proceeding to 50% acetonitrile/50% water (0.1% TFA, v/v) in a linear fashion over 9 min) to give methyl 3-(8-(6-(3-aza-bicyclo[3.1.0]hexan-3-yl)pyridine-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate (70 mg, 22%) as a light yellow solid. [M+H]+, 427.1, tR=1.926 min.

reactant | methyl 3-(8-bromoimidazo[1,2-b]pyridazin-6-yl)benzoate | 0.75 mmol, 250 mg | BrC=1C=2N(N=C(C1)C=1C=C(C(=O)OC)C=CC1)C=CN2 | C14H10BrN3O2
reactant | 6-(3-aza-bicyclo[3.1.0]hexan-3-yl)pyridin-2-amine | 1.13 mmol, 198 mg | C12CN(CC2C1)C1=CC=CC(=N1)N | C10H13N3
reactant | BINAP | 0.3 mmol, 187 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 2.25 mmol, 734 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.075 mmol, 43 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | methyl 3-(8-(6-(3-aza-bicyclo[3.1.0]hexan-3-yl)pyridine-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoate | 70 mg, 22% | C12CN(CC2C1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)OC)C=CC1)C=CN2 | C24H22N6O2
